US05856326
Step E: 4-[5-(4-Cyanobenzyl)-1-imidazolylethyl]-1-(3-chlorophenyl)piperazin-2-one.
A solution of 2-(-5-(4-cyanobenzyl)-imidazolyl)ethyl methanesulfonate (24 mg, 0.079 mmol) in DMF (0.2 ml) was added to 3-(chlorophenyl)piperazin-2-one (17.7 mg, 0.084 mmol), sodium iodide (50 mg, 0.336 mmol) and Hunigs base (0,0146 ml, 0.084 mmol). The mixture was stirred at 55° C. for 12 hours, and the solvent evaporated in vacuo. The residue was purified by preparative tic eluting with 10% saturated ammonia/acetonitrile to afford the title compound. 1H NMR δ CDCl3 (7.61 (2H, d, J=8.4 Hz), 7.56 (1H, s), 7.35-7.20 (7H, m), 7.16 (1H, d, J=8 Hz), 6.85 (1H, s), 4.03 (2H, s), 3.83 (2H, t, J=6.5 Hz),3.61 (2H, t, J=5.4 Hz), 3.27 (2H, s), 2.68 (2H, t, J=5.4 and 2.57 (2H, t, J=6.5 Hz) ppm.

reactant | 2-(-5-(4-cyanobenzyl)-imidazolyl)ethyl methanesulfonate | 0.079 mmol, 24 mg | CS(=O)(=O)OCCC=1NC(=CN1)CC1=CC=C(C=C1)C#N | C14H15N3O3S
reactant | 3-(chlorophenyl)piperazin-2-one | 0.084 mmol, 17.7 mg | ClC1=C(C=CC=C1)C1C(NCCN1)=O | C10H11ClN2O
reactant | sodium iodide | 0.336 mmol, 50 mg | [I-].[Na+]
reactant | Hunigs base | 0.084 mmol, 0,0146 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.2 ml | CN(C)C=O | C3H7NO
product | 4-[5-(4-Cyanobenzyl)-1-imidazolylethyl]-1-(3-chlorophenyl)piperazin-2-one | C(#N)C1=CC=C(CC2=CN=C(N2)C(C)N2CC(N(CC2)C2=CC(=CC=C2)Cl)=O)C=C1 | C23H22ClN5O
